US04058550
A solution of 3.8 g. sodium 4-(n-hexadecylamino)benzoate, 3.7 g. of epichlorohydrin, and 0.7 ml. of water in hexamethylphosphoramide is heated to 90° C. for 5 hours. An additional 0.7 ml. of water is added, followed by 1 ml. of 1N sulfuric acid. The reaction mixture is cooled after 11/2 hours. After adding dimethoxyethane and benzene, the organic layer is separated and washed with water. The solvent is removed in vacuo to give a white solid which is recrystallized from 15 ml. of acetonitrile to yield 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate. If this material contains any of the intermediate 2,3-epoxypropyl 4-(n-hexadecylamino)benzoate, it is removed by chromatography on silica gel.

reactant | sodium 4-(n-hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)[O-])C=C1.[Na+]
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | water | O | H2O
reactant | sulfuric acid | 1N | S(O)(O)(=O)=O | H2O4S
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCC(CO)O)C=C1 | C26H45NO4
